US07135587B2
prepared by reaction of 3-(phenyl)-3-(9H-fluoren-9-ylmethoxycarbonylamino)propionic acid with the solid phase polystyrene A OH (Rapp, Art. No. HA 1 400 00), is reacted with {3-[3-(pyridin-2-ylamino)propyl]ureido}acetic acid (prepared analogously to Example 1 by reaction of N1-pyridin-2-ylpropane-1,3-diamine dihydrochloride with 4-nitrophenyl chloroformate and tert-butyl aminoacetate and cleavage of the ester) and cleaved off from the support, giving 3-phenyl-3-(2-{3-[3-(pyridin-2-ylamino)propyl]ureido}ethanoylamino)propionic acid.

reactant | 3-(phenyl)-3-(9H-fluoren-9-ylmethoxycarbonylamino)propionic acid | C1(=CC=CC=C1)C(CC(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C24H21NO4
reactant | {3-[3-(pyridin-2-ylamino)propyl]ureido}acetic acid | N1=C(C=CC=C1)NCCCNC(NCC(=O)O)=O | C11H16N4O3
reactant | N1-pyridin-2-ylpropane-1,3-diamine dihydrochloride | Cl.Cl.N1=C(C=CC=C1)NCCCN
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | tert-butyl aminoacetate | NCC(=O)OC(C)(C)C | C6H13NO2
product | 3-phenyl-3-(2-{3-[3-(pyridin-2-ylamino)propyl]ureido}ethanoylamino)propionic acid | C1(=CC=CC=C1)C(CC(=O)O)NC(CNC(=O)NCCCNC1=NC=CC=C1)=O | C20H25N5O4
